US08980913B2
Step 10: 3-(1,3-Dioxolan-2-yl)propyl piperidine-4-carboxylate hydrochloride
HCl-dioxane (4 M, 5 mL, 20 mmol) was added to 4-(3-(1,3-dioxolan-2-yl)propyl) 1-tert-butyl piperidine-1,4-dicarboxylate (0.71 g, 2.07 mmol) and the reaction mixture was stirred at RT for 1.5 hours. The solvent was evaporated at reduced pressure. The crude material was used directly without purification.

reactant | HCl dioxane | 20 mmol, 4 M, 5 mL | Cl.O1CCOCC1
reactant | 4-(3-(1,3-dioxolan-2-yl)propyl) 1-tert-butyl piperidine-1,4-dicarboxylate | 2.07 mmol, 0.71 g | N1(CCC(CC1)C(=O)OCCCC1OCCO1)C(=O)OC(C)(C)C | C17H29NO6
product | 3-(1,3-Dioxolan-2-yl)propyl piperidine-4-carboxylate hydrochloride | Cl.N1CCC(CC1)C(=O)OCCCC1OCCO1 | InChI=1S/C12H21NO4.ClH/c14-12(10-3-5-13-6-4-10)17-7-1-2-11-15-8-9-16-11;/h10-11,13H,1-9H2;1H
